US05204326
Preparation of Boc-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asp(OBzl)-Val-Gly-Ala-Gly-Thr(Bzl)-Pro-NH2
By using 3.08 g of Boc-Gln-Thr(Bzl)-Asp(OBzl)-Val-Gly-Ala-Gly-Thr(Bzl)-Pro-NH2 and 1.52 g of Boc-Thr(Bzl)-Pro-OH, and the same procedure as in Reference Example 15 was repeated to obtain 3.21 g (yield: 85.4%) of the above-mentioned objective product.

reactant | Boc-Gln-Thr(Bzl)-Asp(OBzl)-Val-Gly-Ala-Gly-Thr(Bzl)-Pro-NH2 | 3.08 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C60H83N11O16
reactant | Boc-Thr(Bzl)-Pro-OH | 1.52 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C21H30N2O6
product | Boc-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asp(OBzl)-Val-Gly-Ala-Gly-Thr(Bzl)-Pro-NH2 | 3.21 g, yield: 85.4% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N[C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N2[C@H](C(=O)N)CCC2)CCC1)C(=O)OC(C)(C)C | C76H103N13O19
